US08084623B2
To a stirred solution of 2-bromo-5,6-dichloro-pyridine (0.500 g, 2.20 mmol) in THF (6 mL) at 0° C. and under nitrogen was added isopropylmagnesium chloride (1.21 mL of a 2 M solution in THF, 2.42 mmol) dropwise. After 2 hours, a solution of 2-formyl-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.317 g, 1.32 mmol) in THF (1 mL) was added to the reaction mixture dropwise. After 30 minutes, the reaction mixture was warmed to ambient temperature and stirred for one hour, then quenched by the addition of saturated aqueous NH4Cl (10 mL) and extracted with EtOAc. The combined organic extracts were washed with brine, dried (MgSO4), filtered, and concentrated in vacuo. Purification of the residue by chromatography (silica, 0 to 40% EtOAc in hexanes) gave 2-[(5,6-dichloro-pyridin-2-yl)-hydroxy-methyl]-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.289 g, 0.745 mmol, 56%) as a yellow oil and as an inseparable mixture of diastereomers.

reactant | 2-bromo-5,6-dichloro-pyridine | 2.20 mmol, 0.500 g | BrC1=NC(=C(C=C1)Cl)Cl | C5H2BrCl2N
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | 2-formyl-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.32 mmol, 0.317 g | C(C)(C)(C)OC(=O)N1C(CCC1)(CCC)C=O | C13H23NO3
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-[(5,6-dichloro-pyridin-2-yl)-hydroxy-methyl]-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.745 mmol, 0.289 g, 56% | C(C)(C)(C)OC(=O)N1C(CCC1)(CCC)C(O)C1=NC(=C(C=C1)Cl)Cl | C18H26Cl2N2O3
